US07173043B2
In analogy to example 37.5 and 37.6, 3-Butyn-2-ol and N-(Methoxyethyl)ethylamine were converted to yield Ethyl-(2-methoxy-ethyl)-(1-methyl-prop-2-ynyl)-amine as colorless oil, MS: 155 (M).

reactant | 3-Butyn-2-ol | CC(C#C)O | C4H6O
reactant | N-(Methoxyethyl)ethylamine | COCCNCC | C5H13NO
product | Ethyl-(2-methoxy-ethyl)-(1-methyl-prop-2-ynyl)-amine | C(C)N(C(C#C)C)CCOC | C9H17NO
